US05977149
Step C: Preparation of Dimethyl [2-[(2-methylphenoxy)methyl]phenyl]propanedioate
To a suspension of sodium hydride (60% oil dispersion) (15.4 g) in 90 mL of 1,3-dimethyl-3,4,5,6-tetrahydro-2[1H]-pyrimidinone (DMPU), cooled in an ice-water bath, was added dropwise a solution of dimethyl malonate (44 mL) in DMPU (150 mL). The mixture was stirred 20 minutes after the addition was completed, and then 1-iodo-2 -[(2-methylphenoxy)methyl]benzene (62.5 g) and cuprous iodide (73.3 g) were added. The resulting mixture was stirred at 100° C. for 5 h, then stirred at 25° C. overnight. The mixture was diluted with 1 N. HCl (~150 mL) and extracted with diethyl ether (3×400 mL). The combined organic extracts were dried (MgSO4), filtered and concentrated under reduced pressure to a semi-solid, which was purified by flash chromatography on silica get (5:2 hexane:ethyl acetate as eluant). The major material was collected and concentrated to a white solid, which was triturated in hexane and collected by filtration to yield 56.9 g (79% of the title compound of Step C as a white solid, mp 99-103° C.

reactant | sodium hydride | 15.4 g | [H-].[Na+]
reactant | dimethyl malonate | 44 mL | C(CC(=O)OC)(=O)OC | C5H8O4
reactant | 1-iodo-2 -[(2-methylphenoxy)methyl]benzene | 62.5 g | IC1=C(C=CC=C1)COC1=C(C=CC=C1)C | C14H13IO
solvent | 1,3-dimethyl-3,4,5,6-tetrahydro-2[1H]-pyrimidinone | 90 mL | CN1C(N(CCC1)C)=O | C6H12N2O
solvent | DMPU | 150 mL | CN1CCCN(C1=O)C | C6H12N2O
product | Dimethyl [2-[(2-methylphenoxy)methyl]phenyl]propanedioate | 79% | CC1=C(OCC2=C(C=CC=C2)C(C(=O)OC)C(=O)OC)C=CC=C1 | C19H20O5
